US04757081
To 50 ml of a suspension of 0.72 g (0.03 mole) of sodium hydride in DMSO, 3.5 g (0.01 mole) of 1-(3-hydroxyphenyl)-3-methyl-2,6-diphenyl-4(1H)-pyridinone was added, followed by further dropwise addition of 1.4 g (0.012 mole) of propargyl bromide. The reaction mixture was thereafter poured into ice water, followed by extraction with chloroform. After washing the organic layer (the extract) with water, it was dried over anhydrous magnesium sulfate. The solvent was distilled off, followed by recrystallization from a 2:1 mixed solvent of acetone and hexane to obtain 1.5 g of 3-methyl-2,6-diphenyl-1-(3-propargyloxyphenyl)-4(1H)-pyridinone having a melting point of 166°-169° C.

reactant | sodium hydride | 0.03 mole, 0.72 g | [H-].[Na+]
reactant | 1-(3-hydroxyphenyl)-3-methyl-2,6-diphenyl-4(1H)-pyridinone | 0.01 mole, 3.5 g | OC=1C=C(C=CC1)N1C(=C(C(C=C1C1=CC=CC=C1)=O)C)C1=CC=CC=C1 | C24H19NO2
reactant | propargyl bromide | 0.012 mole, 1.4 g | C(C#C)Br | C3H3Br
solvent | DMSO | CS(=O)C | C2H6OS
product | 3-methyl-2,6-diphenyl-1-(3-propargyloxyphenyl)-4(1H)-pyridinone | 1.5 g | CC1=C(N(C(=CC1=O)C1=CC=CC=C1)C1=CC(=CC=C1)OCC#C)C1=CC=CC=C1 | C27H21NO2
